US07230001B1
3-{1-[4-(4-amino-3-bromophenyl)-1,4-dioxobutyl]-4-piperidinyl}-3,4-dihydro-2(1H)-quinazolinone (Item no. 22)
A mixture of 1.5 g (2.84 mmol) of 3-{1-[4-(4-acetylamino-3-bromophenyl)-1,4-dioxobutyl]-4-piperidinyl}-3,4-dihydro-2(1H)-quinazolinone and 150 ml of conc. hydrochloric acid was refluxed for 1 hour. The residue was digested with water, the solid precipitated was suction filtered, recrystallised from acetonitrile and dried in vacuo. Yield: 0.88 g (64% of theoretical). Rf 0.34 (El A). IR (KBr): 3471.7, 3342.4 (NH, NH2); 1666.4 (C═O) MS: M+484/486 (Br)

reactant | 3-{1-[4-(4-acetylamino-3-bromophenyl)-1,4-dioxobutyl]-4-piperidinyl}-3,4-dihydro-2(1H)-quinazolinone | 2.84 mmol, 1.5 g | C(C)(=O)NC1=C(C=C(C=C1)C(CCC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)=O)Br | C25H27BrN4O4
reactant | hydrochloric acid | 150 ml | Cl | ClH
solvent | water | O | H2O
product | 3-{1-[4-(4-amino-3-bromophenyl)-1,4-dioxobutyl]-4-piperidinyl}-3,4-dihydro-2(1H)-quinazolinone | NC1=C(C=C(C=C1)C(CCC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)=O)Br | C23H25BrN4O3
